US05846982
7-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 2.0 gm (14.8 mMol) 7-fluoro-1H-indole and 4.6 gm (30.0 mMol) 4-piperidone hydrochloride monohydrate, 2.1 gm (66%) of the title compound were recovered as a white solid.

reactant | 7-fluoro-1H-indole | 14.8 mMol, 2.0 gm | FC=1C=CC=C2C=CNC12 | C8H6FN
reactant | 4-piperidone hydrochloride monohydrate | 30.0 mMol, 4.6 gm | O.Cl.N1CCC(CC1)=O
product | 7-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.1 gm, 66% | FC=1C=CC=C2C(=CNC12)C=1CCNCC1 | C13H13FN2
